US06967196B1
To a solution of 4-chloro-N-(2,5-dichlorophenyl)-N-[(R)-1-methyl-3-bromopropylbenzene-sulfonamide (1.188 g, 2.295 mmol) in THF/H2O (20/4, 24 mL) was added sodium azide (1.49 g, 22.9 mmol) at 22° C. The resulting mixture was allowed to stir at 22° C. for 4 days. The mixture was extracted with ether (3×60 mL). The combined organic extracts were washed with sat. NaHCO3, dried over MgSO4, filtered, and concentrated under reduced pressure. Silica gel chromatography (1:9 ethyl acetate:hexanes) of the concentrate afforded 0.941 g of 4-chloro-N-(2,5-dichlorophenyl)-N-[(R)-1-methyl-3-azidopropyl]]benzenesulfonamide as a colorless oil in 94% yield.

reactant | (R)-1-methyl-3-bromopropylbenzene-sulfonamide | 2.295 mmol, 1.188 g | C[C@@]1(C(C=CC=C1)CCCBr)S(=O)(=O)N | C10H16BrNO2S
reactant | sodium azide | 22.9 mmol, 1.49 g | [N-]=[N+]=[N-].[Na+]
solvent | THF H2O | 24 mL | C1CCOC1.O
product | benzenesulfonamide | 94% yield | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
